US05516931
3',5'-Di[(pentafluorobenzyl)oxy]acetophenone (12):
Synthesized by 1:2 ratio of 3',5'-dihydroxyacetophenone to pentafluorobenzyl bromide. Yield: 98%. m.p. 102°-103° C. 1H NMR, δ: 2.60 (s, 3H, CH3CO), 5.22 (s, 4H, CH2O), 6.83 (bs, 1H, H-C4'), 7.24 (d, 2H, J=1.8 Hz, H-C2' & H-C6') ppm; 13C NMR, δ: 26.0 (CH3CO), 57.4 (CH2O), 106.4 (C4'), 107.4 (C2' & C6'), 109.7 (C1", 2JC-F =17 Hz) 137.4 (C2" & C6", JC-F =249 Hz), 139.2 (C1'), 141.7 (C4", JC-F =256 Hz), 145.7 (C3" & C5", JC-F =251 Hz), 159.2 (C3' & C5'), 196.7 (C=O) ppm. MS (EI): 331 ([M-PFBz]+); MS (ECNI): 331 ([M-PFBz]-, 100%).

reactant | 3',5'-dihydroxyacetophenone | OC=1C=C(C=C(C1)O)C(C)=O | C8H8O3
reactant | pentafluorobenzyl bromide | FC1=C(C(=C(C(=C1CBr)F)F)F)F | C7H2BrF5
product | 3',5'-Di[(pentafluorobenzyl)oxy]acetophenone | Yield: 98% | FC1=C(C(=C(C(=C1COC=1C=C(C=C(C1)OCC1=C(C(=C(C(=C1F)F)F)F)F)C(C)=O)F)F)F)F | C22H10F10O3
